US05043142
To a solution of 1.64 g (8.44 mmol) of tetraethylene glycol in dry pyridine (30 ml) was added 3.55 g (18.6 mmol) of p-toluenesulfonyl chloride in an atmosphere of argon, and the mixture was allowed to react at room temperature for 15 hours. To the solution was added water followed by addition of conc. hydrochloric acid to adjust the pH to 4, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane-methanol (100:1) yielded 3.78 g (7.52 mmol) of O,O'-ditosyl-3,6,9-trioxaundecane-1,11-diol.

reactant | tetraethylene glycol | 8.44 mmol, 1.64 g | C(COCCOCCOCCO)O | C8H18O5
reactant | p-toluenesulfonyl chloride | 18.6 mmol, 3.55 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | O,O'-ditosyl-3,6,9-trioxaundecane-1,11-diol | 7.52 mmol, 3.78 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOCCOS(=O)(=O)C1=CC=C(C)C=C1 | C22H30O9S2
